US06258812B1
66.1) 2-Pyrimidin-4-yl-indan-1,3-dione
7.87 g (53.1 mmol) phthalic acid anhydride and 22 ml (0.24 mol) 4-methylpyrimidine are stirred for 1 h at 140° C. and for 4 h at 210° C. The reaction mixture is then stirred with 15 ml methanol, filtered, and the residue washed with methanol. Further product is obtainable by evaporating the filtrate and stirring the residue with water: m.p.: 168-169° C.); Anal. calc. (C13H8N2O2) C 69.64%, H 3.60%, N 12.49%; found C 69.8%, H 3.7%, N 12.4%; FAB MS (M+H)+=225.

reactant | phthalic acid anhydride | 53.1 mmol, 7.87 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | 4-methylpyrimidine | 0.24 mol, 22 ml | CC1=NC=NC=C1 | C5H6N2
solvent | methanol | 15 ml | CO | CH4O
product | 2-Pyrimidin-4-yl-indan-1,3-dione | N1=CN=C(C=C1)C1C(C2=CC=CC=C2C1=O)=O | C13H8N2O2
